US07579488B2
Step E. 1-{4-[1-Ethyl-1-(5-hydroxy-benzofuran-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one
1-{4-[1-(5-Benzyloxy-benzofuran-2-yl)-1-ethyl-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one (3.20 g, 6.42 mmol) and Pd—C (0.20 g) are reacted under hydrogen analogous to Example 18-F to give the title compound (2.50 g, 95%).

reactant | 1-{4-[1-(5-Benzyloxy-benzofuran-2-yl)-1-ethyl-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | 6.42 mmol, 3.20 g | C(C1=CC=CC=C1)OC=1C=CC2=C(C=C(O2)C(CC)(CC)C2=CC(=C(OCC(C(C)(C)C)=O)C=C2)C)C1 | C33H38O4
catalyst | Pd—C | 0.20 g | [Pd] | Pd
product | 1-{4-[1-Ethyl-1-(5-hydroxy-benzofuran-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | 2.50 g, 95% | C(C)C(CC)(C=1OC2=C(C1)C=C(C=C2)O)C2=CC(=C(OCC(C(C)(C)C)=O)C=C2)C | C26H32O4
